US05268389
2,4,5-Trimethyl-3-furancarbonyl chloride was prepared by refluxing 2,4,5-trimethyl-3-furancarboxylic acid (20.0 g) with thionyl chloride (20 ml) in toluene (75 ml) for 3 hours. The toluene and excess thionyl chloride were removed on a rotary evaporator and the residue distilled (b.p. 95°-97° C. at ca. 12 mm).

reactant | 2,4,5-trimethyl-3-furancarboxylic acid | 20.0 g | CC=1OC(=C(C1C(=O)O)C)C | C8H10O3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,5-Trimethyl-3-furancarbonyl chloride | CC=1OC(=C(C1C(=O)Cl)C)C | C8H9ClO2
